US04013652
(±)-1,2,8,9,10,11-hexahydro-4-phenyl-4H-pyrido[3',4':4,5]pyrrolo[3,2,1-jk][4,1]benzoxazepine hydrochloride
1-Amino-1,2,3,5-tetrahydro-5-phenyl-4,1-benzoxazepine [Testa and Fontanella, Il Farmaco, 18, 815 (1963)] is reacted with 4-piperidone hydrochloride as described in Example 110 to yield the title compound, m.p. 297°-299° .

reactant | 1-Amino-1,2,3,5-tetrahydro-5-phenyl-4,1-benzoxazepine | NN1CCOC(C2=C1C=CC=C2)C2=CC=CC=C2 | C15H16N2O
reactant | 4-piperidone hydrochloride | Cl.N1CCC(CC1)=O
product | (±)-1,2,8,9,10,11-hexahydro-4-phenyl-4H-pyrido[3',4':4,5]pyrrolo[3,2,1-jk][4,1]benzoxazepine hydrochloride | Cl.C1(=CC=CC=C1)C1OCCN2C3=C1C=CC=C3C3=C2CCNC3 | InChI=1S/C20H20N2O.ClH/c1-2-5-14(6-3-1)20-16-8-4-7-15-17-13-21-10-9-18(17)22(19(15)16)11-12-23-20;/h1-8,20-21H,9-13H2;1H
